US06511670B1
2.03 ml of a 30% solution of sodium methoxide in methanol were added dropwise (such that the temperature did not exceed 15° C.) to a solution of 980 μl of methyl thioglycolate in 10 ml of methanol at 10° C., under an inert atmosphere. The mixture was maintained under stirring for 30 min and then added to a solution of 2.5 g of 1-chloro-5-thia-2-tridecyne in a mixture of 7 ml of methanol with 3 ml of THF under an inert atmosphere. The mixture was maintained under stirring for 15 hours at room temperature and then the reaction medium was poured over 100 ml of acid water (98 ml of water+2 ml concentrated H2SO4) and then extracted 3 times with ethyl ether. The combined organic phases were washed 3 times with water and then with a saturated aqueous solution of NaCl before being dried (Na2SO4), filtered and concentrated under vacuum in a rotary evaporator. The oily residue obtained was chromatographed on a silica gel column (CH2Cl2) providing 2.3 grams of methyl 3,8-dithia-5-hexadecynoate in the form of a pale orange-colored oil (yield 71%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl thioglycolate | 980 μl | C(CS)(=O)OC | C3H6O2S
reactant | 1-chloro-5-thia-2-tridecyne | 2.5 g | ClCC#CCSCCCCCCCC | C12H21ClS
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 7 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | methyl 3,8-dithia-5-hexadecynoate | 2.3 grams | C(CSCC#CCSCCCCCCCC)(=O)OC | C15H26O2S2
